US07915250B2
A solution of 1,1-dimethylethyl 3-[3,6-dioxo-1,4-bis(phenylmethyl)piperazin-2-yl]-3-hydroxyazetidine-1-carboxylate (1.04 g, 2.2 mmol) in methanol (10 mL) was treated with hydrogen chloride in dioxane (4 N, 5.5 mL, 22 mmol) at 60° C. for 25 min. After cooling to room temperature the solution was concentrated. Ethyl acetate and 2 N hydrochloric acid were added to the residue and the phases were separated. The organic phase was discarded. The aqueous phase was basified with 5 M sodium hydroxide and the resulting solution was extracted 4 times with ethyl acetate. The combined organic extracts were dried over magnesium sulfate, filtered, and concentrated. The residue was purified by column chromatography (85% dichloromethane:14% methanol:1% aqueous ammonium hydroxide) to provide 3-(3-hydroxyazetidin-3-yl)-1,4-bis(phenylmethyl)piperazine-2,5-dione as a colorless film (493 mg, 1.35 mmol, 61% yield). 1H NMR (400 MHz, CDCl3): 7.39-7.28 (m, 6H), 7.25-7.20 (m, 4H), 5.39 (d, 1H), 4.80 (d, 1H), 4.44 (d, 1H), 4.36 (d, 1H), 4.26 (d, 1H), 4.11 (s, 1H), 3.97 (d, 1H), 3.83 (d, 1H), 3.71 (d, 1H), 3.27 (m, 2H); MS (EI) for C21H23N3O3: 366 (MH+).

reactant | 1,1-dimethylethyl 3-[3,6-dioxo-1,4-bis(phenylmethyl)piperazin-2-yl]-3-hydroxyazetidine-1-carboxylate | 2.2 mmol, 1.04 g | O=C1C(N(C(CN1CC1=CC=CC=C1)=O)CC1=CC=CC=C1)C1(CN(C1)C(=O)OC(C)(C)C)O | C26H31N3O5
reactant | hydrogen chloride | Cl | ClH
reactant | dioxane | 22 mmol, 4 N, 5.5 mL | O1CCOCC1 | C4H8O2
solvent | methanol | 10 mL | CO | CH4O
product | 3-(3-hydroxyazetidin-3-yl)-1,4-bis(phenylmethyl)piperazine-2,5-dione | 61% yield | OC1(CNC1)C1C(N(CC(N1CC1=CC=CC=C1)=O)CC1=CC=CC=C1)=O | C21H23N3O3
